Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C:4]1=[C:5]=[N:6][H:11])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7],62.081886086743
[C:1](=[C:2]([C:3]([C@@:4]1([H:13])[O:5][C:6]([H:14])=[C:7]1[H:15])([H:11])[H:12])[H:8])([H:9])[H:10]>>[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@@:4]3([H:13])[O:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:8])([H:9])[H:10],93.4004753333748
[O:1]([C:2]([C:3](=[O:4])[H:9])([C:5](=[O:6])[H:10])[H:8])[H:7]>>[C-:3]#[O+:4].[H:7][H:9].[O:1]=[C:2]([C:5](=[O:6])[H:10])[H:8],50.0223174695999
[C:1]([c:2]1[c:3]([H:11])[n:4]([H:12])[c:5]([O:6][H:13])[n:7]1)([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:3]([H:11])[N:4]([H:12])/[C:5]1=[N:7]\[O:6][H:13])([H:8])([H:9])[H:10],142.12691780408002
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1](=[C:2]=[C:7]([C:6](=[N+:3]=[N-:4])[O:5][H:9])[H:10])[H:8],108.491876273971
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8]>>[N:1](=[C:2](\[C:4]([O:3][H:9])=[O:5])[C:6]#[N:7])\[H:8],90.4618723687249
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:7](=[C:6]([H:15])[H:16])[H:17])[H:11])([H:8])([H:9])[H:10],64.5283614597475
[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[N+:2](=[C:6](/[C:7](=[C:3]=[N:4][N-:5][H:12])[H:14])[H:13])[H:11])([H:8])([H:9])[H:10],151.801884687668
[C-:1]([N:2]([C:3](=[O+:4][C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])[H:8])([H:9])[H:10]>>[C:1](/[N:2]=[C:3](/[O:4][C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10],33.30411945596459
[C:1]([C:2]([O:3][C:4]([C:5]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([O+:3]=[C-:4][H:11])([H:9])[H:10])([H:6])([H:7])[H:8].[C:5]([H:12])([H:13])([H:14])[H:15],72.9400770013349
[C:1]([C:6]([C:5]([C@@:4]1([H:14])[C+:2]([H:11])[C:3]1([H:12])[H:13])([H:15])[H:16])=[C-:7][H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],15.199645999555315
[C:1]([O:2][C@@:3]1([H:10])[C:4]([H:11])([H:12])[C:6]([H:13])([H:14])[C:5]1)([H:7])([H:8])[H:9]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[C:6][H:14])[H:10])([H:7])([H:8])[H:9],37.41604452157718
[C@:2]12([H:10])[C@:3]([C:4](=[O:5])[H:12])([H:11])[C:6]1=[C:7]2[H:13].[O:1]([H:8])[H:9]>>[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8],47.016637125252686
[C:1](/[C:2](=[C:3](\[O:4][H:8])[H:11])[H:10])([C:6](=[C:5])[H:12])([H:7])[H:9]>>[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9],53.17502361081762
[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[C:4](=[O:5])[C:6]1([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:14].[C:2]1([H:10])=[C:6]([H:13])[C:4](=[O:5])[C:3]1([H:11])[H:12],91.45382016869249
[C:1]([N:2]([C-:3]=[O+:4][C:5]#[C:6][H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[C:5]#[C:6][H:11])[H:10])([H:7])([H:8])[H:9],24.0716200032155
[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[N:6]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C:4](=[O:5])[N:6]([H:12])[H:13])[H:10])([H:7])[H:8].[O:3]([H:9])[H:11],60.6506665016606
[O:1]=[C:2]([N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7]>>[H:8][H:9].[O:1]1[C:2]([H:7])=[N:3][C@@:4]1([C:5]#[N:6])[H:10],101.283214182723
[C-:1]([N:2]([C+:3]([H:10])[H:11])[H:9])([H:6])[H:7].[C:4](#[N:5])[H:8]>>[C:1]([N:2]([C:3]([C:4]#[N:5])([H:10])[H:11])[H:9])([H:6])([H:7])[H:8],7.1963516334654045
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])=[N:6][C:7]1([H:13])[H:14])[H:8]>>[O:1]([C:2]([C:3]([O:4][C:5](=[N+:6]=[C-:7][H:14])[H:12])([H:10])[H:11])([H:9])[H:13])[H:8],70.5525902127343
[C:1]([C:2]([C:4]([O:3][H:10])=[O:5])([H:9])[H:11])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]([O:3][H:10])([C:4](=[O:5])[H:11])[H:9])([H:6])([H:7])[H:8],117.7652459297455
[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C@:2]1([H:15])[O:3][C@:6]([O:7][H:16])([H:14])[C:5]([H:12])([H:13])[C:4]1([H:10])[H:11])([H:8])[H:9],85.178833154586
[C:1]1([H:8])([H:9])[C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:6][C:7]1([H:10])[H:15]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10],30.741874646969684
[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C+:2]([C@@:3]([C:4](=[O:5])[H:12])([C-:6]=[C:7]([H:9])[H:13])[H:11])[H:10])[H:8],53.750507981341705
[C-:2]([O+:3]=[C:4]([C:5]([O:6][H:16])([H:14])[H:15])[H:13])([H:10])[H:11].[C:1]([H:7])([H:8])([H:9])[H:12]>>[C:1]([C:2]([O:3][C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],23.27719528955209
[O:1]([C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5]>>[O:1]([C+:2]([C:3](=[C-:4][H:8])[H:7])[H:6])[H:5],63.286829091652095
